US07612114B2
2-Methoxy-6-(2-nitrophenyl)naphthalene
To a suspension of 2-iodo-1-nitrobenzene (2.5 g), (6-methoxynaphthalen-2-yl)boronic acid (2.9 g) and tetrakis(triphenylphosphine)palladium(0) (600 mg) in toluene (50 ml) was added an aqueous solution of 2N sodium carbonate (15 ml) under a nitrogen atmosphere, and the solution was stirred for 7 hours at 110° C. Ethyl acetate was added thereto, the solution was filtered through celite pad, extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (1.2 g).

reactant | 2-iodo-1-nitrobenzene | 2.5 g | IC1=C(C=CC=C1)[N+](=O)[O-] | C6H4INO2
reactant | (6-methoxynaphthalen-2-yl)boronic acid | 2.9 g | COC=1C=C2C=CC(=CC2=CC1)B(O)O | C11H11BO3
reactant | sodium carbonate | 2N, 15 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 600 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Methoxy-6-(2-nitrophenyl)naphthalene | 1.2 g | COC1=CC2=CC=C(C=C2C=C1)C1=C(C=CC=C1)[N+](=O)[O-] | C17H13NO3
